.SUBCKT QHECCW 1 2 3 4 5 6 7 8 PARAMS: RH=1
R1 1 2 {2*RH}
R2 2 3 {2*RH}
R3 3 4 {2*RH}
R4 4 5 {2*RH}
R5 5 6 {2*RH}
R6 6 7 {2*RH}
R7 7 8 {2*RH}
R8 8 1 {2*RH}
G1 0 1 2 8 {1/(2*RH)}
G2 0 2 3 1 {1/(2*RH)}
G3 0 3 4 2 {1/(2*RH)}
G4 0 4 5 3 {1/(2*RH)}
G5 0 5 6 4 {1/(2*RH)}
G6 0 6 7 5 {1/(2*RH)}
G7 0 7 8 6 {1/(2*RH)}
G8 0 8 1 7 {1/(2*RH)}
.ENDS
